US07115750B1
2-[(N,N-Dimethylamino)methyl]-6-[4-[(2-methoxybenzoyl]amino]benzyloxy]tetralin
o-Anisoyl chloride (0.15 ml) was added dropwise to pyridine solution (4 ml) of 6-[(4-aminobenzyl)oxy]-2-[(N,N-dimethylamino)methyl]tetralin (200 mg) under ice-cooling, which was stirred at room temperature for 30 minutes. 10% aqueous potassium carbonate solution was added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using alumina column chromatography (development solvent; THF), and recrystallized (ethyl acetate-hexane) to give the titled compound (200 mg).

reactant | o-Anisoyl chloride | 0.15 ml | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | 6-[(4-aminobenzyl)oxy]-2-[(N,N-dimethylamino)methyl]tetralin | 200 mg | NC1=CC=C(COC=2C=C3CCC(CC3=CC2)CN(C)C)C=C1 | C20H26N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(N,N-Dimethylamino)methyl]-6-[4-[(2-methoxybenzoyl]amino]benzyloxy]tetralin | 200 mg | CN(C)CC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)NC(C1=C(C=CC=C1)OC)=O | C28H32N2O3
